US08168668B2
24) 6-tert-butyl-4-methylnicotinonitrile
The title compound was synthesized according to the procedure described for the synthesis of 6-tert-butylnicotinonitrile starting from 4-methylnicotinonitrile (0.5 g, 4.23 mmol), pivalic acid (2.2 g, 21.1 mmol), AgNO3 (0.09 g, 0.55 mmol), (NH4)2S2O8 (1.25 g, 5.5 mmol) and 7.5 ml 10% H2SO4. Purified by normal phase chromatography using 95/5 to 90/10 heptane/ethyl acetate. (Yield: 578 mg, 78%). 1H NMR (400 MHz, CDCl3) δ ppm 1.36 (s, 9 H), 2.53 (s, 3 H), 7.28 (s, 1 H), 8.72 (s, 1 H).

reactant | 6-tert-butylnicotinonitrile | C(C)(C)(C)C1=NC=C(C#N)C=C1 | C10H12N2
reactant | 4-methylnicotinonitrile | 4.23 mmol, 0.5 g | CC1=CC=NC=C1C#N | C7H6N2
reactant | pivalic acid | 21.1 mmol, 2.2 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | H2SO4 | 7.5 ml | OS(=O)(=O)O | H2O4S
catalyst | AgNO3 | 0.55 mmol, 0.09 g | [N+](=O)([O-])[O-].[Ag+]
product | 6-tert-butyl-4-methylnicotinonitrile | C(C)(C)(C)C1=NC=C(C#N)C(=C1)C | C11H14N2
